US09260455B2
Step 1. Synthesis of N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(2-methylprop-1-en-1-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C28)
n-Butyllithium (2.5 M in hexanes, 0.90 mL, 2.25 mmol) was added drop-wise to a suspension of triphenyl(propan-2-yl)phosphonium iodide (1.08 g, 2.50 mmol) in tetrahydrofuran (10 mL) at 0° C. The resulting solution was stirred and allowed to warm to room temperature for 30 minutes, whereupon it was cooled to 0° C. A solution of N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-formyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C23) (104 mg, 0.250 mmol) in tetrahydrofuran (1 mL) was added, and stirring was continued at 0° C. for 1 hour, then at room temperature for 3 hours. The reaction mixture was diluted with ethyl acetate (20 mL), washed with saturated aqueous sodium bicarbonate solution (3×20 mL), washed with water (20 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Silica gel chromatography (Gradient: 0% to 30% ethyl acetate in heptane) provided the product as a white solid. Yield: 42 mg, 95 μmol, 38%. LCMS m/z 443.3 [M+H+]. 1H NMR (400 MHz, CDCl3) δ 11.8 (v br s, 1H), 8.24 (d, J=7.4 Hz, 2H), 7.38-7.55 (m, 4H), 6.85-6.97 (m, 2H), 5.27 (d, J=8 Hz, 1H), 4.31-4.40 (m, 1H), 4.19 (d, J=12.1 Hz, 1H), 3.80 (d, J=12.1 Hz, 1H), 3.13-3.22 (m, 1H), 2.98-3.06 (m, 1H), 2.59-2.68 (m, 1H), 2.00-2.13 (m, 1H), 1.75 (s, 6H), 1.59-1.67 (m, 1H).

reactant | n-Butyllithium | 2.25 mmol, 2.5 M, 0.90 mL | C(CCC)[Li]
reactant | triphenyl(propan-2-yl)phosphonium iodide | 2.50 mmol, 1.08 g | [I-].C1(=CC=CC=C1)[P+](C(C)C)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-formyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 0.250 mmol, 104 mg | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C=O)NC(C2=CC=CC=C2)=O | C21H18F2N2O3S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(2-methylprop-1-en-1-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C=C(C)C)NC(C2=CC=CC=C2)=O | C24H24F2N2O2S
